US07612211B2
D. N-tert-butyl-2-(2-chloromethyl-1H-benzoimidazol-5-yl)benzenesulfonamide
A mixture of 3′,4′-diamino-biphenyl-2-sulfonic acid tert-butylamide (1.0 g, 3.13 mmol), 2-chloroacetimidic acid ethyl ester hydrochloride salt (591 mg, 3.76 mmol) (prepared according to the procedure described in J. Med. Chem., 1986, 29, 2280) in anhydrous ethanol (100%, 20 mL) was stirred at room temperature for 4 h. The reaction mixture was concentrated under reduced pressure and extracted with ethyl acetate and brine. The organic layer was dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo. The residue was purified by chromatography (silica, EtOAc) to afford the title compound as an off-white solid (708 mg, 60% yield). 1H NMR (400 MHz, CD3OD) δ (ppm): 8.14 (dd, 1H, J=8.1 Hz, J=1.5 Hz), 7.79 (m, 1H), 7.74 (dd, 1H, J=8.5 Hz, J=1.1 Hz), 7.65 (td, 1H, J=7.5 Hz, J=1.6 Hz), 7.57 (td, 1H, J=7.8 Hz, J=1.6 Hz), 7.50 (dd, 1H, J=8.3 Hz, J=1.6 Hz), 7.39 (dd, 1H, J=7.3 Hz, J=1.2 Hz), 5.05 (s, 2H), 1.02 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C18H20ClN3O2S: 378.89 (M+H), Found 378.1.

reactant | 3′,4′-diamino-biphenyl-2-sulfonic acid tert-butylamide | 3.13 mmol, 1.0 g | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)N)N | C16H21N3O2S
reactant | 2-chloroacetimidic acid ethyl ester hydrochloride salt | 3.76 mmol, 591 mg | Cl.C(C)OC(CCl)=N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-tert-butyl-2-(2-chloromethyl-1H-benzoimidazol-5-yl)benzenesulfonamide | 708 mg, 60% yield | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC2=C(NC(=N2)CCl)C=C1 | C18H20ClN3O2S
